US07635704B2
2,4-Difluorobenzoic acid (100 g, 633 mmol) was dissolved in trifluoromethanesulfonic acid (400 ml) and N-iodosuccinimide (157 g, 696 mmol) was added by portions at not more than 5° C. After the completion of the addition, the mixture was stirred at 50° C. for 1.5 hr. The reaction mixture was poured into iced water, and the mixture was stirred for 1 hr. The precipitated solid was collected by filtration, washed successively with water and hexane, and vacuum dried to give 2,4-difluoro-5-iodobenzoic acid (179 g yield quantitative) as a white solid.

reactant | 2,4-Difluorobenzoic acid | 633 mmol, 100 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | N-iodosuccinimide | 696 mmol, 157 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | O | H2O
solvent | trifluoromethanesulfonic acid | 400 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 2,4-difluoro-5-iodobenzoic acid | 179 g | FC1=C(C(=O)O)C=C(C(=C1)F)I | C7H3F2IO2
